US04745116
A solution of ethyl 2-ethoxycarbonylamino-6-ethyl-3-methyl-4-nitro-benzoate (35 mg) in absolute ethanol (80 ml) was hydrogenated over 10% palladium on charcoal at 50 psi. hydrogen on a Parr hydrogenator for 5 hrs. The catalyst was removed by suction filtration through Celite. The filtrate was evaporated to give an oil which was further purified by thick layer chromatography (30% ethyl acetate: pet. ether 30-60) to give ethyl 4-amino-2-ethoxycarbonylamino-6-ethyl-3-methyl-benzoate as a white solid (30 mg). IR (CH2Cl2): 3340, 1700 (br.), 1600 cm-1. H-NMR (CD3OD): 1.00-1.50 (overlapping peaks [3t], 9H, CH3CH2, 2CH3CH2O), 2.00 (s, 3H, CH3), 2.60 (q, 2H, CH2Ar), 4.15 (q, 2H, CH2), 4.30 (q, 2H, CH2), 6.60 (s, 1 H, ArH).

reactant | ethyl 2-ethoxycarbonylamino-6-ethyl-3-methyl-4-nitro-benzoate | 35 mg | C(C)OC(=O)NC1=C(C(=O)OCC)C(=CC(=C1C)[N+](=O)[O-])CC | C15H20N2O6
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 80 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | ethyl 4-amino-2-ethoxycarbonylamino-6-ethyl-3-methyl-benzoate | 30 mg | NC1=C(C(=C(C(=O)OCC)C(=C1)CC)NC(=O)OCC)C | C15H22N2O4
